US04790961
(e) 2-hydroxyanthracene
A solution of 2 g of 2-methoxyanthracene and 25 ml methylene chloride were stirred and chilled at -70° C. (acetone/dry-ice bath) under a dry atmosphere. A solution of 60 ml of methylene chloride and 11 ml of 1N boron tribromide in methylene chloride was added slowly through a compensating addition funnel. The mixture was then allowed to warm slowly to ambient temperature under a dry atmosphere. After 24 hours, 20 ml of water were added and the mixture was extracted with ether (4×25 ml). A brown solid, 1.7 g (92%), decomp. ca. 200° C. (lit.** decomp. 200° C.) was obtained after ether evaporation and drying under vacuum for 16 hours. IR (KBr): 3540-3460, 3460-3100 (--OH), 1630, 1480, 1460, 1410, 1380, 1320, 1280-1270, 1200-1170, 950, 880, 800, 735 cm-1. 1H NMR (CD3COCD3 /TMS): δ8.3, 8.44, 8.8; 8.13-7.8; 7.15-7.52 (ArH).

reactant | 2-methoxyanthracene | 2 g | COC1=CC2=CC3=CC=CC=C3C=C2C=C1 | C15H12O
reactant | acetone dry-ice | CC(=O)C.C(=O)=O
reactant | boron tribromide | 1N, 11 ml | B(Br)(Br)Br | BBr3
reactant | water | 20 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-hydroxyanthracene | OC1=CC2=CC3=CC=CC=C3C=C2C=C1 | C14H10O
